US08278345B2
Compound 287: 1-(1H-Benzoimidazol-5-yl)-5-benzo[c][1,2,5]thiadiazol-5-yl-4-cyclopropanecarbonyl-3-hydroxy-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and Benzo[1,2,5]thiadiazole-5-carbaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 4-Cyclopropyl-2,4-dioxo-butyric acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | Benzo[1,2,5]thiadiazole-5-carbaldehyde | 1 mmol | N1=C2C(=NS1)C=C(C=C2)C=O | C7H4N2OS
reactant | 4-Cyclopropyl-2,4-dioxo-butyric acid ethyl ester | 1 mmol | C(C)OC(C(CC(=O)C1CC1)=O)=O | C9H12O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-5-benzo[c][1,2,5]thiadiazol-5-yl-4-cyclopropanecarbonyl-3-hydroxy-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=CC=1C(=NSN1)C=C2)C(=O)C2CC2)O)=O | C21H15N5O3S
